### PR TITLE
[Merged by Bors] - feat(Algebra/Lie/CartanMatrix): add Cartan matrices for classical typ…

### PR DESCRIPTION
**Pull request by JohnnyTeutonic**
Add Cartan matrices for the classical infinite families of simple Lie algebras:
- CartanMatrix.A : Type A_{n-1} (rank n-1, sl(n))
- CartanMatrix.B : Type B_n (rank n, so(2n+1))
- CartanMatrix.C : Type C_n (rank n, sp(2n))
- CartanMatrix.D : Type D_n (rank n, so(2n), requires n >= 4)

Include diagonal theorems, explicit small cases (A_1, A_2, A_3), and Lie algebra abbreviations via ToLieAlgebra.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by JohnnyTeutonic** [comment]
> Thanks and welcome!
> 
> I think this is a good opportunity to reorganise things slightly. I therefore propose:
> 
> 1. Create a new file `Mathilb.Data.Matrix.Cartan` and move the definitions `E₆`, ..., `G₂` out of `Mathlib.Algebra.Lie.CartanMatrix` in there.
> 2. Rename `Mathlib.Algebra.Lie.CartanMatrix` to `Mathlib.Algebra.Lie.SerreConstruction` and import the new file instead of `Mathlib.LinearAlgebra.Matrix.Notation`
> 3. Add your new definitions `A`, ..., `D` (together with their API) into `Mathilb.Data.Matrix.Cartan`
> 4. Add your new definitions `aₙ`, ..., `dₙ` to the renamed file `Mathlib.Algebra.Lie.SerreConstruction`
> 
> Would be be interested in doing this?

absolutely, I can handle that

File: Mathlib/Data/Matrix/Cartan.lean [hunk 1]
```diff
@@ -0,0 +1,178 @@
...
+/-! ### Exceptional Cartan matrices -/
+
+/-- The Cartan matrix of type E₆. See [bourbaki1968] plate V, page 277. -/
+def E₆ : Matrix (Fin 6) (Fin 6) ℤ :=
+  !![2, 0, -1, 0, 0, 0;
+    0, 2, 0, -1, 0, 0;
+    -1, 0, 2, -1, 0, 0;
+    0, -1, -1, 2, -1, 0;
+    0, 0, 0, -1, 2, -1;
+    0, 0, 0, 0, -1, 2]
```
Comment (ocfnash) [inline Mathlib/Data/Matrix/Cartan.lean]: Now is a good time to improve this whitespace alignment here:
```suggestion
  !![ 2,  0, -1,  0,  0,  0;
      0,  2,  0, -1,  0,  0;
     -1,  0,  2, -1,  0,  0;
      0, -1, -1,  2, -1,  0;
      0,  0,  0, -1,  2, -1;
      0,  0,  0,  0, -1,  2]
```
Similarly four the other four exceptionals.

File: Mathlib/Algebra/Lie/SerreConstruction.lean [hunk 2]
```diff
@@ -0,0 +1,167 @@
...
+public import Mathlib.Algebra.Lie.Free
+public import Mathlib.Algebra.Lie.Quotient
+public import Mathlib.Data.Matrix.Cartan
+
+/-!
+# Serre construction of Lie algebras from Cartan matrices
+
+This file provides the Serre construction of Lie algebras from Cartan matrices.
+Given a Cartan matrix `A`, we construct a Lie algebra as a quotient of the free Lie algebra
+on generators `{H_i, E_i, F_i}` by the Serre relations.
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/SerreConstruction.lean]: Let's keep these explicit since they're somewhat obfuscated in the Lean:
```suggestion
on generators `{H_i, E_i, F_i}` by the Serre relations:
$$
\begin{align}
  [H_i, H_j] &= 0\\
  [E_i, F_i] &= H_i\\
  [E_i, F_j] &= 0 \quad\text{if $i \ne j$}\\
  [H_i, E_j] &= A_{ij}E_j\\
  [H_i, F_j] &= -A_{ij}F_j\\
  ad(E_i)^{1 - A_{ij}}(E_j) &= 0 \quad\text{if $i \ne j$}\\
  ad(F_i)^{1 - A_{ij}}(F_j) &= 0 \quad\text{if $i \ne j$}\\
\end{align}
$$
```

File: Mathlib/Algebra/Lie/SerreConstruction.lean [hunk 3]
```diff
@@ -0,0 +1,167 @@
...
+## Main definitions
+
+* `Matrix.ToLieAlgebra` : The Lie algebra constructed from a Cartan matrix via Serre relations
+
+### Exceptional Lie algebras
+* `LieAlgebra.e₆`, `LieAlgebra.e₇`, `LieAlgebra.e₈`, `LieAlgebra.f₄`, `LieAlgebra.g₂`
+
+### Classical Lie algebras
+* `CartanMatrix.aₙ`, `CartanMatrix.bₙ`, `CartanMatrix.cₙ`, `CartanMatrix.dₙ`
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/SerreConstruction.lean:39]: I think we should keep this:
```suggestion

## Alternative construction

This construction is sometimes performed within the free unital associative algebra
`FreeAlgebra R X`, rather than within the free Lie algebra `FreeLieAlgebra R X`, as we do here.
However the difference is illusory since the construction stays inside the Lie subalgebra of
`FreeAlgebra R X` generated by `X`, and this is naturally isomorphic to `FreeLieAlgebra R X`
(though the proof of this seems to require Poincaré–Birkhoff–Witt).

```

File: Mathlib/Data/Matrix/Cartan.lean [hunk 4]
```diff
@@ -0,0 +1,178 @@
...
+    else if j.val = n - 3 ∧ (i.val = n - 2 ∨ i.val = n - 1) then -1
+    else 0
+
+/-! ### Properties -/
+
+section Properties
+
+variable (n : ℕ)
+
+@[simp] theorem A_diag (i : Fin n) : A n i i = 2 := by simp [A, Matrix.of_apply]
```
Comment (ocfnash) [inline Mathlib/Data/Matrix/Cartan.lean]: How about:
```suggestion
@[simp] theorem A_diag : (A n).diag = 2 := by ext; simp [A]
```
and likewise below.

File: Mathlib/Data/Matrix/Cartan.lean [hunk 5]
```diff
@@ -0,0 +1,178 @@
...
+@[simp] theorem B_diag (i : Fin n) : B n i i = 2 := by simp [B, Matrix.of_apply]
+@[simp] theorem C_diag (i : Fin n) : C n i i = 2 := by simp [C, Matrix.of_apply]
+@[simp] theorem D_diag (i : Fin n) : D n i i = 2 := by simp [D, Matrix.of_apply]
+
+theorem A_off_diag_nonpos (i j : Fin n) (h : i ≠ j) : A n i j ≤ 0 := by
```
Comment (ocfnash) [inline Mathlib/Data/Matrix/Cartan.lean]:
```suggestion
theorem A_apply_le_zero_of_ne (i j : Fin n) (h : i ≠ j) : A n i j ≤ 0 := by
```

File: Mathlib/Data/Matrix/Cartan.lean [hunk 6]
```diff
@@ -0,0 +1,178 @@
...
+/-! ### Small cases -/
+
+theorem A_one : A 1 = !![2] := by
+  ext i j; fin_cases i; fin_cases j; simp [A, Matrix.of_apply]
+
+theorem A_two : A 2 = !![2, -1; -1, 2] := by
+  ext i j; fin_cases i <;> fin_cases j <;> simp [A, Matrix.of_apply]
+
+theorem A_three : A 3 = !![2, -1, 0; -1, 2, -1; 0, -1, 2] := by
+  ext i j; fin_cases i <;> fin_cases j <;> simp [A, Matrix.of_apply]
```
Comment (ocfnash) [inline Mathlib/Data/Matrix/Cartan.lean]: The lemma `Matrix.of_apply` carries `simp` so you don't need to supply it by hand:
```suggestion
  ext i j; fin_cases i <;> fin_cases j <;> simp [A]
```
similarly above

**Review by ocfnash — APPROVED** [review]
Thanks!

Please carefully apply the suggestions and then feel free to merge.

bors d+

File: Mathlib/Data/Matrix/Cartan.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Data/Matrix/Cartan.lean]: It's not very important but I was hoping we could improve the whitespace alignment for the other four exceptionals too.

Comment (JohnnyTeutonic) [reply Mathlib/Data/Matrix/Cartan.lean]: I missed this. I will do a follow-up PR after merge is done, with the whitespace alignment for the other exceptionals, thanks for the guidance.

Comment (JohnnyTeutonic) [reply Mathlib/Data/Matrix/Cartan.lean]: https://github.com/leanprover-community/mathlib4/pull/32848
